US06956050B2
STEP. 1 2-{[4-(2-hydroxyethyl)phenyl]amino}-1-phenyl-1-propanone
A mixture of 4-aminophenethyl alcohol (690 mg, 5.0 mmol), 2-bromopropiophenone (2.1 g, 10 mmol) potassium carbonate (690 mg, 5.0 mmol) in DMF (50 mL) was stirred at ambient temperature for 3 days. The mixture was partitioned between ethyl acetate and water. The combined organic phase was dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with hexane/ethyl acetate (2:1) to afford the title compound quantitatively as yellow oil: 1H-NMR (CDCl3) δ 1.49 (2H, d, J=6.9 Hz), 2.74 (2H, t, J=6.4 Hz), 3.79 (2H, t, J=6.4 Hz), 4.65 (1H, br), 5.11 (1H, m), 6.65 (2H, d, J=8.4 Hz), 7.05 (2H, d, J=8.6 Hz), 7.48-7.65 (3H, m), 8.03 (2H, d, J=7.2 Hz).

reactant | 4-aminophenethyl alcohol | 5.0 mmol, 690 mg | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | 2-bromopropiophenone | 10 mmol, 2.1 g | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-{[4-(2-hydroxyethyl)phenyl]amino}-1-phenyl-1-propanone | OCCC1=CC=C(C=C1)NC(C(=O)C1=CC=CC=C1)C | C17H19NO2
